US08198279B2
1-(3-tert-butyl-1-phenyl-1H-pyrazol-5-yl)-3-(2-(methylthio)-4-(3-oxo-3,4-dihydropyrido[2,3-b]pyrazin-8-yloxy)phenyl)urea (AA-067)
Method F2 was used with 8-(4-amino-3-(methylthio)phenoxy)pyrido[3,2-b]pyrazin-3(4H)-one and 3-tert-butyl-5-isocyanato-1-phenyl-1H-pyrazole to afford the title compound (175 mg, 97%) as a white powder.

reactant | 8-(4-amino-3-(methylthio)phenoxy)pyrido[3,2-b]pyrazin-3(4H)-one | NC1=C(C=C(OC2=CC=NC3=C2N=CC(N3)=O)C=C1)SC | C14H12N4O2S
reactant | 3-tert-butyl-5-isocyanato-1-phenyl-1H-pyrazole | C(C)(C)(C)C1=NN(C(=C1)N=C=O)C1=CC=CC=C1 | C14H15N3O
product | 1-(3-tert-butyl-1-phenyl-1H-pyrazol-5-yl)-3-(2-(methylthio)-4-(3-oxo-3,4-dihydropyrido[2,3-b]pyrazin-8-yloxy)phenyl)urea | 175 mg, 97% | C(C)(C)(C)C1=NN(C(=C1)NC(=O)NC1=C(C=C(C=C1)OC1=CC=NC=2NC(C=NC21)=O)SC)C2=CC=CC=C2 | C28H27N7O3S
